US05220042
1.3 Grams (4.3 mM) of 1-(2-hydroxyethyl)-2,5-dimethoxy-3,6-bis(methoxymethoxy)benzene was dissolved in 15 ml of dichloromethane, then under ice-cooling condition, 1 g of pyridinium chlorochromate was added thereto and the reaction mixture was stirred at a room temperature for 10 hours. After filtration, the filtrate was concentrated under a reduced pressure, and the residue obtained was treated by a silica gel column chromatography (diameter 3 cm×length 15 cm, eluent: 30% ethyl acetate: n-hexane, "Wakogel C-200") to yield 1 g of 2-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]acetoaldehyde. Colorless oily substance.

reactant | 1-(2-hydroxyethyl)-2,5-dimethoxy-3,6-bis(methoxymethoxy)benzene | 4.3 mM | OCCC1=C(C(=CC(=C1OCOC)OC)OCOC)OC | C14H22O7
reactant | pyridinium chlorochromate | 1 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | n-hexane | CCCCCC | C6H14
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]acetoaldehyde | 1 g | COC1=C(C(=C(C=C1OCOC)OC)OCOC)CC=O | C14H20O7
